US08426449B2
Step 4: (3-{2-[((S)-Acetyl-indan-1-yl-amino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: {3-[2-((S)-indan-1-ylaminomethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester and acetyl chloride.

reactant | {3-[2-((S)-indan-1-ylaminomethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN[C@H]1CCC2=CC=CC=C12)=O | C26H24F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (3-{2-[((S)-Acetyl-indan-1-yl-amino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN([C@H]1CCC2=CC=CC=C12)C(C)=O)=O | C28H26F3NO4
